US04687861
Production of 1-(2',3'-dichlorophenyl)-2-nitroethylene
28.0 g of 2,3-dichlorobenzaldehyde, 13.9 g of ammonium acetate, 13.9 ml of nitromethane and 120 ml of glacial acetic acid are refluxed for 2 hours. After cooling, the reaction mixture is poured onto ice and stirred for 30 minutes. The formed precipitate is then filtered off, washed with water and dried in vacuo to thus obtain the product in the form of slightly yellowish crystals, m.p. 89°-91° C. IR (CHCl3) in cm-1 : 1650 (C=C); 1530 and 1350 (NO2). NMR (CDCl3) in ppm: 7.2-7.7 (m, 4H); 8.50 (d, J=15 Hz, 1H).

reactant | 2,3-dichlorobenzaldehyde | 28.0 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | ammonium acetate | 13.9 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 13.9 ml | [N+](=O)([O-])C | CH3NO2
reactant | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(2',3'-dichlorophenyl)-2-nitroethylene | ClC1=C(C=CC=C1Cl)C=C[N+](=O)[O-] | C8H5Cl2NO2
